US07816540B2
a) 2-(4-Chloro-phenyl)-5,6-difluoro-1H-benzoimidazole
The mixture of 50.7 g (0.35 mol) 1,2-diamino-4,5-difluorobenzene, 55.1 g (0.35 mol) 4-chlorobenzoic acid and 507 g polyphosphoric acid was heated to 160° C. and stirred at this temperature for 90 min. After cooling to 55° C., 1000 mL water and 500 mL ethyl acetate were added. Under ice cooling ca 1000 mL 32% aqueous sodium hydroxide solution was added (pH ca 9). The suspension was filtered over dicalite and the filter cake was washed with 1.5 L ethyl acetate. The phases were separated and the aqueous phase was washed with 0.5 L ethyl acetate. The organic phases were washed with 1M aqueous sodium hydroxide solution and brine, dried over magnesium sulfate and filtered. To the solution, silica gel was added and the solvent evaporated. The crude adsorbed product was purified by column chromatography over silica gel using a gradient of n-heptane:ethyl acetate (v/v, 4:1 to 1:1) as eluant. The fractions containing the product in pure form were pooled and evaporated. The remaining fractions were dissolved in ethyl acetate, washed twice with 1M aqueous sodium hydroxide solution and brine, the combined aqueous layers extracted once with ethyl acetate and the combined organic layers dried over magnesium sulfate and filtered. Chromatography over silica gel afforded a second batch of compound. Total yield: 75 g (80%) light yellow solid. MS (ES+): 265 (M+H).

reactant | 1,2-diamino-4,5-difluorobenzene | 0.35 mol, 50.7 g | NC1=C(C=C(C(=C1)F)F)N | C6H6F2N2
reactant | 4-chlorobenzoic acid | 0.35 mol, 55.1 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | water | 1000 mL | O | H2O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-Chloro-phenyl)-5,6-difluoro-1H-benzoimidazole | ClC1=CC=C(C=C1)C1=NC2=C(N1)C=C(C(=C2)F)F | C13H7ClF2N2
